US08193359B2
Ethyl 6-(4-((5-(furo[3,2-c]pyridin-2-yl)-[1,2,4]-oxadiazol-3-yl)methyl)piperidin-1-yl)nicotinate
2-(3-Piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine (Preparation 12, 50 mg, 0.176 mmol), ethyl 6-chloronicotinate (49 mg, 0.264 mmol) and DBU (40 mg, 0.264 mmol) were shaken in DMSO (1 mL) at 100° C. for 20 h. The reaction mixture was allowed to cool to room temperature, before being acidified with AcOH. Purification by RP-HPLC yielded the title compound: RT=5.74 min; m/z (ES+)=434.4 [M+H]+.

reactant | 2-(3-Piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine | 0.176 mmol, 50 mg | N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C=NC=CC2O1 | C15H16N4O2
reactant | ethyl 6-chloronicotinate | 0.264 mmol, 49 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | DBU | 0.264 mmol, 40 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | AcOH | CC(=O)O | C2H4O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | Ethyl 6-(4-((5-(furo[3,2-c]pyridin-2-yl)-[1,2,4]-oxadiazol-3-yl)methyl)piperidin-1-yl)nicotinate | O1C(=CC=2C=NC=CC21)C2=NC(=NO2)CC2CCN(CC2)C2=NC=C(C(=O)OCC)C=C2 | C23H23N5O4
